US04267176
A mixture of formic acid (100 g) and acetic anhydride (204 g) was stirred for half an hour at ambient temperature. To the solution was added ethyl 4-aminopyrimidine-2-carboxylate (30 g) and the mixture was stirred for 1.5 hours at 70° to 75° C. and then evaporated to dryness. The residue was triturated with ethanol, collected by filtration and washed with ethanol to give ethyl 4-formamidopyrimidine-2-carboxylate (20.0 g), mp 205°-206° C.

reactant | acetic anhydride | 204 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 4-aminopyrimidine-2-carboxylate | 30 g | NC1=NC(=NC=C1)C(=O)OCC | C7H9N3O2
solvent | formic acid | 100 g | C(=O)O | CH2O2
product | ethyl 4-formamidopyrimidine-2-carboxylate | 20.0 g | C(=O)NC1=NC(=NC=C1)C(=O)OCC | C8H9N3O3
